US06946461B2
d) 4-Chloromethyl-1-methyl-1,2,3-triazole Hydrochloride
1-Methyl-4-hydroxymethyl-1,2,3-triazole hydrochloride hydrate (1.0 g, 6.08 mmol) was suspended in 20 ml thionyl chloride and the mixture was refluxed for 1 hour. Excess thionyl chloride was evaporated off and the residue was triturated with diethyl ether (25 ml). The white solid produced was washed by decantation with diethyl ether and dried in vacuo to give the required product (0.52 g, 51%). 1H NMR (360 MHz, d6-DMSO) 4.04 (3H, s), 4.82 (2H, s), 8.16 (1H, s); MS+131&133.

reactant | 1-Methyl-4-hydroxymethyl-1,2,3-triazole hydrochloride hydrate | 6.08 mmol, 1.0 g | O.Cl.CN1N=NC(=C1)CO
solvent | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-Chloromethyl-1-methyl-1,2,3-triazole Hydrochloride | 0.52 g, 51% | Cl.ClCC=1N=NN(C1)C | InChI=1S/C4H6ClN3.ClH/c1-8-3-4(2-5)6-7-8;/h3H,2H2,1H3;1H
